US08664220B2
Step 3: 1-[4′-(4-{Hydroxy-[5-(3-trifluoromethyl-benzyl)[1,3,4]oxadiazol-2-yl]-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[5-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazol-2-yl]-methanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[5-(3-trifluoromethyl-benzyl)-[1,3,4]oxadiazol-2-yl]-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1OC(=NN1)CC1=CC(=CC=C1)C(F)(F)F | C21H15BrF3N3O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(4-{Hydroxy-[5-(3-trifluoromethyl-benzyl)[1,3,4]oxadiazol-2-yl]-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C=1OC(=NN1)CC1=CC(=CC=C1)C(F)(F)F)O | C33H28F3N3O5
